US04108986
A solution of 2.5 g of N2 -(6,7-dimethoxy-2-naphthylsulfonyl)-L-arginyl-N-methylphenylalanine ethyl ester in 5 ml of ethanol and 7 ml of 1N NaOH solution was stirred for 30 hours at room temperature. At the end of this period, the solution was concentrated to 5 ml, chromatographed on 80 ml of Daiaion ® SK 102 ion exchange resin (200-300 mesh, H+ form, manufactured by Mitsubishi Chemical Industries Limited) packed in water, washed with water, and eluted with 3% ammonium hydroxide solution. The fraction eluted from 3% ammonium hydroxide solution was evaporated to dryness, and the residue was purified by reprecipitation with ethanol-diethyl ether to give 1.86 g (78 percent) of N2 -(6,7-dimethoxy-2-naphthyl-sulfonyl)-L-arginyl-N-methylphenylalanine as an amorphous solid, I.R. (KBr): 3,300 (broad), 1,600 cm-1

reactant | N2 (6,7-dimethoxy-2-naphthylsulfonyl)-L-arginyl-N-methylphenylalanine ethyl ester | 2.5 g | N#N.C(C)OC([C@@H](N(C)C([C@@H](NS(=O)(=O)C1=CC2=CC(=C(C=C2C=C1)OC)OC)CCCNC(N)=N)=O)CC1=CC=CC=C1)=O
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | NaOH | 1N, 7 ml | [OH-].[Na+]
product | N2 (6,7-dimethoxy-2-naphthyl-sulfonyl)-L-arginyl-N-methylphenylalanine | 1.86 g, 78 percent | N#N.COC=1C=C2C=CC(=CC2=CC1OC)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)N([C@@H](CC1=CC=CC=C1)C(=O)O)C | InChI=1S/C28H35N5O7S.N2/c1-33(23(27(35)36)14-18-8-5-4-6-9-18)26(34)22(10-7-13-31-28(29)30)32-41(37,38)21-12-11-19-16-24(39-2)25(40-3)17-20(19)15-21;1-2/h4-6,8-9,11-12,15-17,22-23,32H,7,10,13-14H2,1-3H3,(H,35,36)(H4,29,30,31);/t22-,23-;/m0./s1
